US05411973
4,4,4-Trifluoro-3-hydroxy-3-methyl-1-[4-(pyrid-4-ylsulfonyl)phenyl]-trans-but-1-ene.
To a solution of 4,4,4-trifluoro-3-hydroxy-3-methyl-1-[4-(pyrid-4-ylsulfonyl)phenyl]but-1-yne (0.32 g, 0.90 mmol) in dry tetrahydrofuran (5 mL) was added lithium aluminum hydride (44.4 mg, 1.17 mmol) portionwise over 1 minute and the suspension was stirred for 1 hour. The crude reaction mixture was treated sequentially with water (0.4 mL), 2N sodium hydroxide (0.4 mL), and water (1 mL). This mixture was stirred for 10 minutes, filtered through diatomaceous earth with ethyl acetate. The combined washings and filtrate were separated and the aqueous phase was extracted with ethyl acetate. The organic extracts were dried and evaporated. The crude oil was purified by chromatography with ethyl acetate:dichloromethane as the eluent (1:5) to yield the title compound as a white solid (60 mg, 18%); mp 168°-171° C.; NMR (CDCl3): 1.59 (s,3, CH3), 2.43 (s,1, OH), 6.41 (d,1, J=15.9, vinylic), 6.93 (d,1, J=15.9, vinylic), 7.56 (d,2, J=5.9, Ar), 7.76 (d,2, J=5.9, Ar), 7.93 (d,2, J=8.3, Ar), 8.82 (d,2, J=5.9, Ar); MS (EI): m/z=357(M+). Analysis for C16H14F3NO3S: Calculated: C, 53.77; H, 3.95; N, 3.92; Found: C, 53.41; H, 4.05; N, 3.84.

reactant | 4,4,4-trifluoro-3-hydroxy-3-methyl-1-[4-(pyrid-4-ylsulfonyl)phenyl]but-1-yne | 0.90 mmol, 0.32 g | FC(C(C#CC1=CC=C(C=C1)S(=O)(=O)C1=CC=NC=C1)(C)O)(F)F | C16H12F3NO3S
reactant | lithium aluminum hydride | 1.17 mmol, 44.4 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.4 mL | O | H2O
reactant | sodium hydroxide | 2N, 0.4 mL | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4,4,4-Trifluoro-3-hydroxy-3-methyl-1-[4-(pyrid-4-ylsulfonyl)phenyl]-trans-but-1-ene | 60 mg, 18% | FC(C(/C=C/C1=CC=C(C=C1)S(=O)(=O)C1=CC=NC=C1)(C)O)(F)F | C16H14F3NO3S
